US05011931
A mixture of acetic anhydride (16.5 ml) and formic acid (11.2 ml) was stirred and heated at 50°-60° under nitrogen for 2 hours. The mixture was cooled to ambient temperature and 1-(4-fluoro-2-methylaminophenyl)-2-(methylthio)ethanone (4.0 g), prepared in a similar manner to that described in Example 4, added over a period of 5 minutes. The mixture was stirred at ambient temperature for 2.75 hours and then cooled in an ice/salt bath to maintain the temperature below 30° whilst water (50 ml) was added over a period of 30 minutes. The mixture was extracted with dichloromethane (2×25 ml), the organic phases combined, washed with water (2×20 ml) and then evaporated in vacuo to give an oily product. Purification of the oily product by high performance liquid chromatography carried out using a Gilson system fitted with a 2" Dynamax silica column and eluting with dichloromethane/methanol (99:1) at 16 ml/min gave 5'-fluoro-N-methyl-2'-(methylthio)acetylformanilide in the form of a pale yellow oil.

reactant | acetic anhydride | 16.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 11.2 ml | C(=O)O | CH2O2
reactant | 1-(4-fluoro-2-methylaminophenyl)-2-(methylthio)ethanone | 4.0 g | FC1=CC(=C(C=C1)C(CSC)=O)NC | C10H12FNOS
reactant | water | 50 ml | O | H2O
product | 5'-fluoro-N-methyl-2'-(methylthio)acetylformanilide | FC=1C=CC(=C(N(C=O)C)C1)C(CSC)=O | C11H12FNO2S
